US08802664B2
To a solution of 2,4-difluoro-1-methoxybenzene (156 mg) in tetrahydrofuran (5 mL) at −78° C. is added a 2M solution of lithium diisopropylamide in THF (540 μL). After stirring for 45 min a solution of 1-(2-trimethylsilylethoxymethyl)-1H-benzimidazole-2-carbaldehyde (which can be prepared according to US2003/220341 or U.S. Pat. No. 6,476,041 for example) (300 mg) in tetrahydrofuran (5 mL) is added at −78° C. and the reaction mixture allowed to warm to room temperature. After hydrolysis with aqueous saturated ammonium chloride and extraction with ethyl acetate, the organic phase is dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography over silica gel (gradient dichloromethane/methanol from 100/0 to 95/5) to afford (2,6-difluoro-3-methoxyphenyl)[1-(2-trimethylsilylethoxymethyl)-1H-benzimidazol-2-yl]methanol.

reactant | 2,4-difluoro-1-methoxybenzene | 156 mg | FC1=C(C=CC(=C1)F)OC | C7H6F2O
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(2-trimethylsilylethoxymethyl)-1H-benzimidazole-2-carbaldehyde | C[Si](CCOCN1C(=NC2=C1C=CC=C2)C=O)(C)C | C14H20N2O2Si
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | THF | 540 μL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (2,6-difluoro-3-methoxyphenyl)[1-(2-trimethylsilylethoxymethyl)-1H-benzimidazol-2-yl]methanol | FC1=C(C(=CC=C1OC)F)C(O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C21H26F2N2O3Si
